US07632829B2
{4-[(E)-3-(3,4-Dichloro-phenyl)-acryloyl]-7-oxo-[1,4]diazepan-1-yl}-acetaldehyde
7.92 ml (7.92 mmol) of a LAH-solution (1.0 M in THF) was dropped to a cooled (−30° C.) suspension of 3.28 g (7.92 mmol) of 2-{4-[(E)-3-(3,4-dichloro-phenyl)-acryloyl]-7-oxo-[1,4]diazepan-1-yl}-N-methoxy-N-methyl-acetamide in 260 ml of THF. The reaction was stirred for 5 min at −30° C. and then cooled to −78° C. The reaction was stopped by adding first 12.8 ml (174.24 mmol) of acetone and afterwards 0.9 mL (15.84 mmol) of acetic acid. The reaction was then powered to an aqueous 10% KHSO4 solution and extracted with ether (3×), the organic phase was dried over Na2SO4 evaporated dissolved in toluene and evaporated (3×) to yield 2.12 g (75%) of the title compound as light yellow foam. MS: 355.0 (MH+, 2Cl).

reactant | LAH | 7.92 mmol, 1.0 M, 7.92 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 2-{4-[(E)-3-(3,4-dichloro-phenyl)-acryloyl]-7-oxo-[1,4]diazepan-1-yl}-N-methoxy-N-methyl-acetamide | 7.92 mmol, 3.28 g | ClC=1C=C(C=CC1Cl)/C=C/C(=O)N1CCN(C(CC1)=O)CC(=O)N(C)OC | C18H21Cl2N3O4
reactant | acetone | 174.24 mmol, 12.8 ml | CC(=O)C | C3H6O
reactant | acetic acid | 15.84 mmol, 0.9 mL | C(C)(=O)O | C2H4O2
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | THF | 260 ml | C1CCOC1 | C4H8O
product | {4-[(E)-3-(3,4-Dichloro-phenyl)-acryloyl]-7-oxo-[1,4]diazepan-1-yl}-acetaldehyde | 2.12 g, 75% | ClC=1C=C(C=CC1Cl)/C=C/C(=O)N1CCN(C(CC1)=O)CC=O | C16H16Cl2N2O3
